US07598272B2
N-[1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5yl]nicotinamide
In a procedure analogous to example 32, reaction of 1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5-amine (33 mg, 0.10 mmol) and nicotinoyl chloride hydrochloride (20 mg, 0.11 mmol) furnished the product (17 mg, 39%) after chromatography.

reactant | 1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5-amine | 0.10 mmol, 33 mg | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | nicotinoyl chloride hydrochloride | 0.11 mmol, 20 mg | Cl.C(C1=CN=CC=C1)(=O)Cl
product | N-[1-(6-{[(1S)-1-phenylethyl]amino}pyrazin-2-yl)-1H-benzimidazol-5yl]nicotinamide | 17 mg, 39% | C1(=CC=CC=C1)[C@H](C)NC1=CN=CC(=N1)N1C=NC2=C1C=CC(=C2)NC(C2=CN=CC=C2)=O | C25H21N7O
